US06806230B1
4.5 g (19 mmol) of 5-(1-chloro-2-methylpropyl)-4-trifluoromethylpyrimidine was dissolved in 50 ml of isopropyl alcohol, and 10 ml (161 mmol) of a 50% methylamine aqueous solution was added, followed by stirring at room temperature for 8 hours. The solvent was distilled off under reduced pressure, and 100 ml of water was added, followed by extraction with ethyl acetate. The obtained organic layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure to obtain 3.4 g (yield: 77%) of 5-(1-(N-methylamino)-2-methylpropyl]-4-trifluoromethylpyrimidine as slightly yellow liquid (refractive index nD20: 1.4529).

reactant | 5-(1-chloro-2-methylpropyl)-4-trifluoromethylpyrimidine | 19 mmol, 4.5 g | ClC(C(C)C)C=1C(=NC=NC1)C(F)(F)F | C9H10ClF3N2
reactant | methylamine | CN | CH5N
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | 5-(1-(N-methylamino)-2-methylpropyl]-4-trifluoromethylpyrimidine | 3.4 g, yield: 77% | CNC(C(C)C)C=1C(=NC=NC1)C(F)(F)F | C10H14F3N3
